US06242600B1
(S)-[3-Methoxycarbonylmethyl-2-oxo-4-[4-oxo-4-(4-pyridin-2-ylpiperazin-1-yl)butyryl]piperazin-1-yl]acetic Acid
To suspension of (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid tert-butyl ester (0.64 g) and 4-oxo-4-(4-pyridin-2-ylpiperazin-1-yl)butanoic acid (0.65 g) produced in Reference Example 3 in acetonitrile (20 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.52 g) and the suspension was stirred for 5 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the concentrate was purified by means of a silica gel column chromatography (acetonitrile/methanol=9/1). To the produced ester derivative was added trifluoroacetic acid (10 ml) and the solution was stirred for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the concentrate was purified by means of CHP-20 column chromatography (H2O→10% acetonitrile aqueous solution). The objected fraction was concentrated and subjected to lyophilization to give the titled compound (0.84 g) as a white amorphous powdery product.

reactant | (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid tert-butyl ester | 0.64 g | C(C)(C)(C)OC(CN1C([C@@H](NCC1)CC(=O)OC)=O)=O | C13H22N2O5
reactant | 4-oxo-4-(4-pyridin-2-ylpiperazin-1-yl)butanoic acid | 0.65 g | O=C(CCC(=O)O)N1CCN(CC1)C1=NC=CC=C1 | C13H17N3O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.52 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (S)-[3-Methoxycarbonylmethyl-2-oxo-4-[4-oxo-4-(4-pyridin-2-ylpiperazin-1-yl)butyryl]piperazin-1-yl]acetic Acid | 0.84 g | COC(=O)C[C@H]1C(N(CCN1C(CCC(N1CCN(CC1)C1=NC=CC=C1)=O)=O)CC(=O)O)=O | C22H29N5O7
